US07005432B2
3-(2-Methyl-imidazol-1-ylmethyl)-5-naphthalen-2-yl-pyridazine-hydrochloride
The title compound, MS: m/e=301.3 (M+H+), was prepared from naphtylboronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | naphtylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 3-(2-Methyl-imidazol-1-ylmethyl)-5-naphthalen-2-yl-pyridazine-hydrochloride | Cl.CC=1N(C=CN1)CC=1N=NC=C(C1)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C19H16N4.ClH/c1-14-20-8-9-23(14)13-19-11-18(12-21-22-19)17-7-6-15-4-2-3-5-16(15)10-17;/h2-12H,13H2,1H3;1H
